US08492372B2
2-(CHLOROMETHYL)-7-(TRIFLUOROMETHYL)-4H-1,3-BENZODIOXINE
2-(hydroxymethyl)-5-(trifluoromethyl)phenol (1.0 g, 5.2 mmol) was dissolved in AcOH (4 ml) and cooled on ice-bath. Chloroacetaldehyde (0.93 ml, 7.3 mmol) and concentrated HCl (1.0 ml) were consecutively added drop wise. After 24 h, further addition of chloroacetaldehyde (0.50 ml, 3.9 mmol) and concentrated HCl (1.0 ml) were done and the reaction mixture was allowed to stir another 24 h. Water was added and the aqueous phase was extracted with EtOAc. The combined organic phases were dried (Na2SO4) and evaporated under reduced pressure to give an oil. Twice purification by flash column chromatography (isooctane/EtOAc 4:1) gave the pure title compound (0.08 g, 6%). MS m/z (rel. intensity, 70 eV) 252 (M+, 10), 174 (76), 146 (bp), 145 (47), 127 (44).

reactant | 2-(hydroxymethyl)-5-(trifluoromethyl)phenol | 5.2 mmol, 1.0 g | OCC1=C(C=C(C=C1)C(F)(F)F)O | C8H7F3O2
reactant | Chloroacetaldehyde | 7.3 mmol, 0.93 ml | ClCC=O | C2H3ClO
reactant | HCl | 1.0 ml | Cl | ClH
reactant | chloroacetaldehyde | 3.9 mmol, 0.50 ml | ClCC=O | C2H3ClO
reactant | HCl | 1.0 ml | Cl | ClH
reactant | Water | O | H2O
solvent | AcOH | 4 ml | CC(=O)O | C2H4O2
product | 2-(CHLOROMETHYL)-7-(TRIFLUOROMETHYL)-4H-1,3-BENZODIOXINE | 0.08 g, 6% | ClCC1OCC2=C(O1)C=C(C=C2)C(F)(F)F | C10H8ClF3O2
